US07659294B2
Step D: Methyl 4-(1,4-dioxaspiro[4.5]dec-8-yl)benzoate
A mixture of methyl 4-(1,4-dioxaspiro[4.5]dec-7-en-8-yl)benzoate (514 mg, 1.87 mmol) and 10% Pd/C (127 mg) in 15 mL of 1:2 v/v EtOAc/CH3OH was shaken for 6.5 h under 45 Psi of H2 using a Parr shaker. Catalyst was filtered off through a cake of Celite and washed with copious of EtOAc. The filtrate was concentrated to give 480 mg of the title compound.

reactant | methyl 4-(1,4-dioxaspiro[4.5]dec-7-en-8-yl)benzoate | 1.87 mmol, 514 mg | O1CCOC12CC=C(CC2)C2=CC=C(C(=O)OC)C=C2 | C16H18O4
reactant | Psi | OCC1(O)[C@H](O)[C@H](O)[C@H](O)CO1 | C6H12O6
catalyst | Pd/C | 127 mg | [Pd] | Pd
solvent | EtOAc CH3OH | CCOC(=O)C.CO
product | Methyl 4-(1,4-dioxaspiro[4.5]dec-8-yl)benzoate | 480 mg | O1CCOC12CCC(CC2)C2=CC=C(C(=O)OC)C=C2 | C16H20O4
